US09192624B2
N-carboxy-L-alanine anhydride and N-carboxy-γ-methyl-L-glutamic acid anhydride were added to benzene at a molar ratio of 9:1, total 1.4 wt %, and the mixture was stirred for 2-3 days to give a poly-L-alanine/γ-methyl-L-glutamic acid copolymer (9/1). This was dissolved in a dichloromethane-trifluoroacetic acid mixed solvent (50:50 (v/v)) to give a 8 wt % poly-L-alanine/γ-methyl-L-glutamic acid copolymer (9/1) solution. A fiber structure made of poly-L-alanine/γ-methyl-L-glutamic acid copolymer (9/1) was obtained from this solution in the same manner as in Production Example 1.

reactant | N-carboxy-L-alanine anhydride | C(=O)(O)N[C@@H](C)C(=O)OC([C@@H](NC(=O)O)C)=O | C8H12N2O7
reactant | N-carboxy-γ-methyl-L-glutamic acid anhydride | C(=O)(O)N[C@H]1CC(C(=O)OC1=O)C | C7H9NO5
solvent | benzene | C1=CC=CC=C1 | C6H6
product | poly-L-alanine γ-methyl-L-glutamic acid | C[C@@H](C(=O)O)N.CC(C[C@H](N)C(=O)O)C(=O)O | InChI=1S/C6H11NO4.C3H7NO2/c1-3(5(8)9)2-4(7)6(10)11;1-2(4)3(5)6/h3-4H,2,7H2,1H3,(H,8,9)(H,10,11);2H,4H2,1H3,(H,5,6)/t3?,4-;2-/m00/s1
